US04117134
Diethyl{[(4-oxo-4H-1-benzopyran-2-yl)amino]methylene}malonate.
A mixture of 2-aminochromone (3.22 g, 0.02 mole) and diethyl ethoxymethylenemalonate (8.64 g, 0.04 mole) is heated at 130° C. under nitrogen until an homogeneous solution forms (16 hrs.). The reaction mixture is cooled. The product, which precipitated, is filtered off and washed with hexane. Recrystallization from ethylacetate gives pale yellow crystals (6.01 g, 91%), mp 138°-140° C.

reactant | 2-aminochromone | 0.02 mole, 3.22 g | NC=1OC2=CC=CC=C2C(C1)=O | C9H7NO2
reactant | diethyl ethoxymethylenemalonate | 0.04 mole, 8.64 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | Diethyl{[(4-oxo-4H-1-benzopyran-2-yl)amino]methylene}malonate | 6.01 g, 91% | C(C)OC(C(C(=O)OCC)=CNC=1OC2=C(C(C1)=O)C=CC=C2)=O | C17H17NO6
